US06610701B2
A solution of 2-Tetrazol-1-yl-benzoic acid (1.0 g, 5.2 mmol), ammonium chloride (0.56 g, 10.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.0 g, 10.4 mmol), 1-hydroxy-7-azabenzotriazole (1.4 g, 10.4 mmol) and diisopropylethylamine (3.6 ml, 20.8 mmol) in N,N-dimethylformamide (15 ml) was stirred at room temperature overnight. Water was added and the reaction mixture was extracted with ethyl acetate. The combined organic layers were washed with brine. Drying and solvent evaporation gave 2-Tetrazol-1-yl-benzamide; 1H NMR (CD3OD, 400 MHz) δ9.44 (s, 1H), 7.72 (m, 4H).

reactant | 2-Tetrazol-1-yl-benzoic acid | 5.2 mmol, 1.0 g | N1(N=NN=C1)C1=C(C(=O)O)C=CC=C1 | C8H6N4O2
reactant | ammonium chloride | 10.4 mmol, 0.56 g | [Cl-].[NH4+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.4 mmol, 2.0 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 10.4 mmol, 1.4 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamine | 20.8 mmol, 3.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-Tetrazol-1-yl-benzamide | N1(N=NN=C1)C1=C(C(=O)N)C=CC=C1 | C8H7N5O
